### PR TITLE
Binary Arithmetic

### PR DESCRIPTION
**Pull request by AtticusKuhn**
Begin formalizing binary arithmetic and proving its correctness

### CODE REVIEW

File: src/binary.lagda.md [hunk 1]
```diff
@@ -0,0 +1,110 @@
...
+inverses 0 = {! !}
+inverses (suc b) = {! !}
+```
+
+# Adder
+
+Define a half adder.
+```agda
+halfAdder : Bit × Bit  ⇨ Bit × Bit
+halfAdder  = (xor bitops) ▵ (and bitops)
```
Comment (conal) [inline src/binary.lagda.md]: I'd open `HasBitOperations` (class-style) so that `xor ▵ and` suffices.
Also, check out [conal/felix-boolean](https://github.com/conal/felix-boolean).

File: src/binary.lagda.md [hunk 2]
```diff
@@ -0,0 +1,110 @@
...
+```
+Define a ful adder
+```agda
+fullAdder : (Bit × Bit) × Bit ⇨ Bit × Bit
+fullAdder =  first (or bitops) ∘ inAssocʳ′ (second (halfAdder))  ∘ first (halfAdder) -- (or bitops ∘  ( exl ∘ halfAdder ∘ exl ▵  exl ∘ halfAdder ∘ first (exr ∘ halfAdder))) ▵  exr ∘ halfAdder ∘ first ( exr ∘ halfAdder)
+```
```
Comment (conal) [inline src/binary.lagda.md:311]: `halfAdder` and `fullAdder` need specifications and correctness proofs.

File: src/binary.lagda.md [hunk 3]
```diff
@@ -0,0 +1,110 @@
...
+
+Define some utility functions
+```agda
+scoop : {A B C D : Set} → (A × B) × (C × D) ⇨ ((A × B) × D) × C
+scoop =  ((exl ∘ exl ▵ exr ∘ exl) ▵ ( exr ∘ exr)) ▵ (exl ∘ exr)
+
+
+blender : {A B C : Set} → (A × B) × C ⇨ (A × C) × B
+blender = inAssocʳ′ (second (swap))
```
Comment (conal) [inline src/binary.lagda.md:320]: See `inAssocʳ`.

File: src/binary.lagda.md [hunk 4]
```diff
@@ -0,0 +1,110 @@
...
+
+```
+
+# Module declaration and Instances
+```agda
+module binary
+     -- (A : Set)
+       {{ps : Products Set }}
+       {{cps : Coproducts Set }}
+     {_⇨_ : Set  → Set  → Set} (let infix 0 _⇨_; _⇨_ = _⇨_)
```
Comment (conal) [inline src/binary.lagda.md]: I suggest specializing/simplifying `_⇨_` to be functions and later trying to generalize from `Set` as well as from functions.

File: src/binary.lagda.md [hunk 5]
```diff
@@ -0,0 +1,110 @@
...
+
+blender : {A B C : Set} → (A × B) × C ⇨ (A × C) × B
+blender = inAssocʳ′ (second (swap))
+```
+
+Use ripple addition to add two `b` bit little endian representations of binary numbers.
+```agda
+rippleAddLittleEndian : (b : ℕ) → ((Bits b) × (Bits b)) × Bit ⇨ (Bits b) × Bit
+rippleAddLittleEndian 0 = ! ⊗ id
+rippleAddLittleEndian (suc n) =  (( ( ( blender {Bit} {Bit} {Bits n} ∘ first (fullAdder) ) ∘ scoop) ∘ second (rippleAddLittleEndian n) ) ∘ assocʳ  ) ∘ first (transpose)
```
Comment (conal) [inline src/binary.lagda.md]: If you specialize to functions, so that Agda recognizes the product constructor to be injective in its object arguments, then you can drop the object arguments.

File: src/binary.lagda.md (hunk 1 above)
Comment (AtticusKuhn) [reply src/binary.lagda.md]: That is a good idea. [conal/felix-boolean](https://github.com/conal/felix-boolean), does not have laws, I think, so I would need to add them to do proofs

File: src/binary.lagda.md (hunk 2 above)
Comment (AtticusKuhn) [reply src/binary.lagda.md:311]: I agree.

Here is the specification for half-adder

```agda
halfAdderSpecification :   second exl ∘  (NatToLittleEndian 2) ∘ add ≈ halfAdder ∘ twice %2
halfAdderSpecification = trans (begin
  second exl ∘ NatToLittleEndian 2 ∘ add
  ≈⟨ ∘-assocˡ ⟩
  (second exl ∘ NatToLittleEndian 2) ∘ add
  ≈⟨ ∘≈ˡ (second∘▵) ⟩
  ( %2 ▵ ( exl ∘ ( %2 ▵ ( ! ∘ /2 ) ) ∘ /2 )  ) ∘ add
  ≈⟨ ∘≈ˡ (▵≈ʳ ∘-assocˡ ) ⟩
  ( %2 ▵ ( (exl ∘ ( %2 ▵ ( ! ∘ /2 ) )) ∘ /2 )  ) ∘ add
  ≈⟨ ∘≈ˡ (▵≈ʳ (∘≈ˡ exl∘▵) ) ⟩
  ( %2 ▵ (  %2 ∘ /2 )  ) ∘ add
  ≈⟨ ▵∘ ⟩
  (%2 ∘ add) ▵ (  (%2 ∘ /2 ) ∘ add  )
  ≈⟨ ▵≈ʳ ∘-assocʳ ⟩
   (%2 ∘ add) ▵ (%2 ∘ /2 ∘ add)
  ∎) (sym (begin
  halfAdder ∘ twice %2
  ≈⟨ ▵∘ ⟩
  (xor ∘ twice %2) ▵ (and ∘ twice %2)
  ≈⟨ ▵≈ ( sym (distrib) ) distrib/2 ⟩
   (%2 ∘ add) ▵ (%2 ∘ /2 ∘ add)
  ∎))
```
And here is the specification for full-adder.

```agda
fullAdderSpecification :  fullAdder ∘ (twice %2 ⊗ %2)  ≈ second exl ∘  (NatToLittleEndian 2) ∘ add ∘ first add
fullAdderSpecification =  {! !}
```

Of course, I still need to finish the proof for full-adder

File: src/binary.lagda.md (hunk 1 above)
Comment (conal) [reply src/binary.lagda.md]: Perhaps so, if you're trying to prove a property *across* categories. First, however, I suggest working just in the category of functions. Once you establish correctness there, you'll be able to transport correctness to other categories systematically via homomorphism properties rather than class laws.

If you start with just functions as I'm recommending, I also suggest using native Agda-style lambda expressions, without an algebraic (eg categorical) interface.
